US06770638B2
Step 2: Preparation of 1-{2-[4-(2-Methoxyphenyl)-piperazin-1-yl]-ethyl}-1,5,6,7-tetrahydro-indol-4-one
A mixture of 1-(2-Chloroethyl)-4-(2-methoxyphenyl)piperazine (7.30 g) was dissolved in DMSO (30 mL), then slowly added to 1,5,6,7-tetrahyro-indol-4-one (30.1 mmol) which was pretreated with sodium hydroxide (31.6 mmol) in DMSO (15 mL) for 0.5 h with slight heat. The reaction was left under heat and was monitored by TLC (ethyl acetate: dichloromethane, 1:1). After completion (8 h), the reaction mixture was poured in ice water (300 mL) and extracted with dichloromethane twice, dried with sodium sulfate and solvent removed under vacuum. Flash chromatography (ethyl acetate: dichloromethane, 1:4) yielded an oil, NEO-377 (7.25 g).

reactant | 1-(2-Chloroethyl)-4-(2-methoxyphenyl)piperazine | 7.30 g | ClCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H19ClN2O
reactant | 1,5,6,7-tetrahyro-indol-4-one | 30.1 mmol | N1C=CC=2C(CCCC12)=O | C8H9NO
reactant | sodium hydroxide | 31.6 mmol | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-{2-[4-(2-Methoxyphenyl)-piperazin-1-yl]-ethyl}-1,5,6,7-tetrahydro-indol-4-one | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C=CC=2C(CCCC12)=O | C21H27N3O2
